US05663162
60 ml of methylene chloride was added to 3.854 g of N-tert-butoxycarbonylglycine and 2.97 g of 1-hydroxybenzotriazole. To this mixture was further added 4.54 g of dicyclohexylcarbodiimide with stirring and ice-cooling. The mixture was stirred for 2 hours with ice-cooling. To this was added 2.28 g of 2-aminomethylthiazole, and the resulting mixture was stirred for an additional 16 hours. The crystals precipitated were removed by filtration. The filtrate was washed with a 5% aqueous solution of sodium hydrogencarbonate, and dried over anhydrous magnesium sulfate. The methylene chloride was evaporated under reduced pressure. The residue was purified by flash column chromatography using silica gel, eluting with ethyl acetate to give 5.29 g (yield 97%) of 2-[(N-tert-butoxycarbonylglycyl)amino]methylthiazole.

reactant | N-tert-butoxycarbonylglycine | 3.854 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | 1-hydroxybenzotriazole | 2.97 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 4.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-aminomethylthiazole | 2.28 g | NCC=1SC=CN1 | C4H6N2S
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-[(N-tert-butoxycarbonylglycyl)amino]methylthiazole | 5.29 g, yield 97% | C(C)(C)(C)OC(=O)NCC(=O)NCC=1SC=CN1 | C11H17N3O3S
